Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pancytopenia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx of neuroendocrine tumor of unknown origin C1D11 of 
___ and recent admission for syncope who presents from 
clinic with pancytopenia. 

The patient was recently admitted for syncope. He was also 
started on ___ ___ while inpatient. He also 
received neupogen ___. He presented to outpatient clinic today 
for routine labs and was noted to be newly pancytopenic and 
neutropenic. He also reported significant fatigue. He denied any 
fevers or infectious symptoms at home, however he does report 
decreased appetite and poor PO intake.

On arrival to the floor, patient had no acute complaints other 
than ongoing fatigue that has worsened over the past several 
weeks. He denies HA, dizziness, blurry vision, chest pain, 
SOB/Cough, abdominal pain, constipation, dysuria or increased 
urinary frequency. He has his chronic baseline diarrhea which 
has not changed. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
First developed abdominal bloating mid ___. He was
then following up with one of our hepatologist, Dr. ___ he was found to have on ___, a 15.9-cm right lobe
mass with multiple satellite lesions consistent with HCC and
enlarged porta hepatis and retroperitoneal lymphadenopathy
consistent with metastases.  His case was discussed at
___ Conference and while the lymph nodes 
were
concerning and rereviewed by Interventional Radiology, they were
found to be not diagnostic for metastases.  

He underwent endoscopy with EUS on ___ which did not
identify any primary lesions including in the pancreas.  A 
biopsy
of 1 of the lymph nodes returned as consistent with grade 2
neuroendocrine tumor with a Ki-67 percentage of about 20%. 
 
PAST MEDICAL HISTORY: 
1.  ___-induced cirrhosis complicated by portal hypertension.
2.  Ascites and HCC.
3.  Atrial fibrillation.
4.  Hypertension.
5.  Obesity.
6.  BPH.
7.  Gout.
8.  Prediabetes mellitus.
9.  Apparent CKD, which he is not aware of.
10.  Baseline Bell's palsy left side.
                             

 
Social History:
___
Family History:
His mother was diagnosed with intestinal cancer in her late ___
and died at age ___.  Brother diagnosed in his ___ and living 
with
bladder cancer.  Sister living and has lymphoma. Sister living,
diagnosed with breast cancer in her late ___.

 
Physical Exam:
===ADMISSION PHYSICAL EXAM===
VS: 98.3; 104 / 60; 104; 16 99 RA 
GENERAL: Pleasant, lying in bed comfortably
HEENT: NCAT. PERRL. EOMI. L sided facial droop - chronic. No 
oral lesions.
CARDIAC: tachycardic, irregular. no MRG
LUNG: CTAB
ABD: Normal bowel sounds. RUQ mass palpated - fibrotic liver 
edge vs mass. Non-tender, non-distended. 
EXT: Warm, well perfused, 1+ pitting edema bilaterally
NEURO: Alert, oriented, motor and sensory function grossly 
intact
SKIN: No significant rashes other then resolving echymoses on 
bilateral upper arms

===DISCHARGE PHYSICAL EXAM===
Physical Exam:  
VS: 97.6PO 104 / 60 83 20 99% RA 
GENERAL: Pleasant, lying in bed comfortably
HEENT: NCAT.  L sided facial droop - chronic. No oral lesions.
CARDIAC: irregularly irregular
LUNG: CTAB
ABD: Normal bowel sounds. RUQ mass palpated - fibrotic liver 
edge vs mass. Non-tender, non-distended. 
EXT: Warm, well perfused, 1+ pitting edema bilaterally
NEURO: Alert, oriented, motor and sensory function grossly 
intact
SKIN: No significant rashes other then resolving echymoses on 
bilateral upper arms
 
Pertinent Results:
===ADMISSION LABS===
___ 11:45AM BLOOD WBC-0.3*# RBC-2.99* Hgb-8.5* Hct-26.8* 
MCV-90 MCH-28.4 MCHC-31.7* RDW-17.8* RDWSD-58.4* Plt Ct-73*#
___ 07:00PM BLOOD Neuts-0 Bands-0 Lymphs-89* Monos-8 Eos-3 
Baso-0 ___ Myelos-0 AbsNeut-0.00* AbsLymp-0.36* 
AbsMono-0.03* AbsEos-0.01* AbsBaso-0.00*
___ 07:00PM BLOOD ___ PTT-31.5 ___
___ 11:45AM BLOOD UreaN-26* Creat-1.0 Na-147* K-4.6 Cl-112* 
HCO3-22 AnGap-18
___ 11:45AM BLOOD ALT-32 AST-30 LD(LDH)-299* AlkPhos-300* 
TotBili-0.7
___ 11:45AM BLOOD Albumin-2.9* Calcium-8.8 Phos-2.4* Mg-2.1 
UricAcd-7.7*
___ 11:45AM BLOOD Hapto-203*

===DISCHARGE LABS===
___ 07:16AM BLOOD WBC-3.7*# RBC-2.95* Hgb-8.2* Hct-25.7* 
MCV-87 MCH-27.8 MCHC-31.9* RDW-18.2* RDWSD-57.7* Plt Ct-24*
___ 07:16AM BLOOD Neuts-46 Bands-17* ___ Monos-6 
Eos-2 Baso-0 ___ Metas-3* Myelos-0 NRBC-1* AbsNeut-2.33 
AbsLymp-0.96* AbsMono-0.22 AbsEos-0.07 AbsBaso-0.00*
___ 07:16AM BLOOD ___ PTT-31.2 ___
___ 07:16AM BLOOD Glucose-75 UreaN-20 Creat-1.0 Na-144 
K-3.5 Cl-113* HCO3-21* AnGap-14
___ 07:16AM BLOOD Calcium-7.8* Phos-1.9* Mg-1.9 
UricAcd-7.2*

===MICRO===
None

===STUDIES===
None

 
Brief Hospital Course:
___ with hx of neuroendocrine tumor of unknown origin C1D11 of 
___ who presents from clinic with pancytopenia. 
Pancytopenia was attributed to his recent chemo administration. 
No localizing signs or symptoms of infection or fever, however 
given the patient's neutropenia on admission, patient was 
started on cipro prophylaxis and was maintained on neutropenic 
precautions. Due to fatigue and a hemoglobin of 7.2, patient was 
transfused with 1u prbc on ___, with symptomatic improvement. 
Hgb responded appropriately, and remained stable 
post-transfusion. WBC count improved during admission, as well, 
and patient was discharged with ANC of 2300 (was 0 on 
admission). Thromboycytopenia was 60 on admission, and initially 
declined during admission to nadir of 20, but was rising at the 
time of discharge (24). Patient was on apixaban for 
anticoagulation in the setting of a recent PICC-associated DVT 
as well as atrial fibrillation, which was transitioned to 
lovenox upon admission (though was discontinued when platelets 
fell below 50). Patient's labs should be closely monitored, and 
anticoagulation should be resumed when platelets rise. 

TRANSITIONAL ISSUES:
====================
- Please draw CBC with diff on ___
- Patient's anticoagulation was held at the time of discharge 
given thrombocytopenia. When platelets >50, consider resuming 
lovenox vs apixaban (depending on if DVT attributed to 
malignancy or PICC, as well as patient preference).
- Cipro prophylaxis was discontinued at the time of discharge, 
as the patient is no longer neutropenic. 
- Allopurinol was changed to 200mg daily given renal function
- Lasix held during admission, as he was clinically dry, and his 
weight has been declining. Was not resumed at the time of 
discharge. Consider resuming, as clinically indicated. 

CODE: DNR/DNI (confirmed in clinic with Dr. ___
COMMUNICATION: Patient, ___ (daughter) ___

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Pegfilgrastim Onpro (On Body Injector)  6 mg SC ONCE 
2. Neulasta (pegfilgrastim) 6 mg/0.6mL subcutaneous ONCE 
3. Doxazosin 4 mg PO HS 
4. Finasteride 5 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Allopurinol ___ mg PO DAILY 
7. Metoprolol Succinate XL 200 mg PO DAILY 
8. Senna 8.6 mg PO BID:PRN constipation 
9. Colchicine 0.6 mg PO DAILY:PRN Gout 
10. Apixaban 5 mg PO BID 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
2.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 2 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
3.  Colchicine 0.6 mg PO DAILY:PRN Gout  
4.  Doxazosin 4 mg PO HS  
5.  Finasteride 5 mg PO DAILY  
6.  Metoprolol Succinate XL 200 mg PO DAILY  
7.  Senna 8.6 mg PO BID:PRN constipation  
8. HELD- Apixaban 5 mg PO BID  This medication was held. Do not 
restart Apixaban until you have your repeat bloodwork drawn
9.Outpatient Lab Work
ICD-9 284.1
CBC with differential
Dr. ___ phone: ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary Diagnosis: 
pancytopenia

secondary diagnoses:
symptomatic anemia
thrombocytopenia
neutropenia
PICC associated DVT
neuroendocrine tumor
atrial fibrillation
___ cirrhosis
BPH
gout 
Pre-diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
because you were found to have low blood counts in your ___ 
clinic. We think the cause of your low blood counts was your 
recent chemotherapy administration. While you were here, you 
received a blood transfusion, which made you feel better. Your 
other blood counts improved, as well. 

It was a pleasure caring for you!
Your ___ Care Team
 
Followup Instructions:
___